US08247403B2
(2) tert-butyl 9-(2,2,2-trifluoro-1-methylethyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-[1-(trifluoromethyl)ethenyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (300 mg, 0.874 mmol) and 10% palladium on carbon (50.0 mg) in methanol (6 ml) was stirred under a hydrogen atmosphere for 12 hr. The reaction mixture was filtered, and the filtrate was concentrated. The residue was poured into water, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the desired product (100 mg, 33.1%) as an oil.

reactant | tert-butyl 9-[1-(trifluoromethyl)ethenyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.874 mmol, 300 mg | FC(C(=C)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)(F)F | C17H20F3NO3
catalyst | palladium on carbon | 50.0 mg | [Pd] | Pd
solvent | methanol | 6 ml | CO | CH4O
product | tert-butyl 9-(2,2,2-trifluoro-1-methylethyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 100 mg, 33.1% | FC(C(C)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)(F)F | C17H22F3NO3
